US06642229B2
A mixture of 3-(3-bromophenyl)pyridine (1.65 g, 7.1 mmol), bis(neopentyl glycolato)diborane (1.75 g, 7.8 mmol), KOAc (2.1 g, 21.2 mmol) and Pd(dppf)Cl2 (288 mg, 5 mol %) in 1,4-dioxane (60 ml) was degassed with a stream of N2 for 10 min and then heated at 110° C. for 16 h. The reaction mixture was concentrated under reduced pressure and diethyl ether (150 ml) was added. This was extracted with 4N NaOH (3×50 ml). These combined basic extracts were neutralised with conc. HCl and then extracted with dichloromethane (3×100 ml). The combined organic filtrates were washed with brine (50 ml) and dried (MgSO4) to yield 3-[3-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)phenyl]pyridine (1.63 mg, 87%): δH (360 MHz, CDCl3) δ 1.04 (6H, s), 3.80 (4H, s), 7.38 (1H, dd, J 7.8 and 4.9), 7.47 (1H, t, J 7.8), 7.60-7.68 (1H, m), 7.84 (1H, d, J 7.4), 7.96 (1H, dt, J 7.8 and 2.0), 8.03 (1H, s), 8.58 (1H, dd, J 4.9 and 1.5), 8.85 (1H, s); m/z (ES+) 267 (M+H+).

reactant | 3-(3-bromophenyl)pyridine | 7.1 mmol, 1.65 g | BrC=1C=C(C=CC1)C=1C=NC=CC1 | C11H8BrN
reactant | bis(neopentyl glycolato)diborane | 7.8 mmol, 1.75 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | KOAc | 21.2 mmol, 2.1 g | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 60 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 288 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-[3-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)phenyl]pyridine | 1.63 mg, 87% | CC1(COB(OC1)C=1C=C(C=CC1)C=1C=NC=CC1)C | C16H18BNO2
